US05155236
Benzyl 2-benzylcarbonylaminomethylene-3-oxobutanoate (starting material for Example 16)
A mixture of benzyl acetoacetate (20 ml), tribenzyl orthoformate (38 ml), benzyl carbamate (15 g) and acetic anhydride (40 ml) was stirred at reflux temperature (130°-140° C.) for 16 hours. The solvents were evaporated at reduced pressure and the residue purified by chromatography on K60 silica eluting with Et2O/hexane (1:5) to give the title compound as an oil. n.m.r. (CDCl3): 2.50 (s,3H), 5.20 (s,4H), 7.37 (m,10H), 8.47 (d, 1H).

reactant | benzyl acetoacetate | 20 ml | C(CC(=O)C)(=O)OCC1=CC=CC=C1 | C11H12O3
reactant | tribenzyl orthoformate | 38 ml | C(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C22H22O3
reactant | benzyl carbamate | 15 g | C(N)(OCC1=CC=CC=C1)=O | C8H9NO2
reactant | acetic anhydride | 40 ml | C(C)(=O)OC(C)=O | C4H6O3
product | Benzyl 2-benzylcarbonylaminomethylene-3-oxobutanoate | C(C1=CC=CC=C1)C(=O)NC=C(C(=O)OCC1=CC=CC=C1)C(C)=O | C20H19NO4
